US04267176
A mixture of formic acid (20 g.) and acetic anhydride (41.3 g.) was stirred for 30 minutes at 50° C. and thereto was added methyl 4-amino-2-pyridinecarboxylate (11 g.) at ambient temperature, and then the mixture was stirred for 2 hours at 70°-75° C. After the removal of the solvent from the reaction mixture, the residue was recrystallized from ethanol (160 ml.) to give a pale yellow powder of methyl 4-formamido-2-pyridinecarboxylate (8.3 g.), mp. 185° to 186.5° C.

reactant | acetic anhydride | 41.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl 4-amino-2-pyridinecarboxylate | 11 g | NC1=CC(=NC=C1)C(=O)OC | C7H8N2O2
solvent | formic acid | 20 g | C(=O)O | CH2O2
product | methyl 4-formamido-2-pyridinecarboxylate | 8.3 g | C(=O)NC1=CC(=NC=C1)C(=O)OC | C8H8N2O3
